US07402673B2
a. Preparation of (6-phenethylaminohexyl)-carbamic acid tert-butyl ester
(6-Aminohexyl)carbamic acid tert-butyl ester hydrochloride (5 g, 20 mmol) was dissolved in 50% dichloromethane/methanol (50 mL) and treated at ambient temperature with phenylacetaldehyde (2.3 mL, 20 mmol) for one hour. Sodium cyanoborohydride (1.2 g, 19 mmol) was added and the mixture stirred overnight. Water was added, followed by saturated sodium hydrogencarbonate and additional dichloromethane. The mixture was partitioned, the organics dried over sodium sulfate and the volatiles removed under reduced pressure to give the title intermediate, which was used without further purification.

reactant | (6-Aminohexyl)carbamic acid tert-butyl ester hydrochloride | 20 mmol, 5 g | Cl.C(C)(C)(C)OC(NCCCCCCN)=O
reactant | phenylacetaldehyde | 20 mmol, 2.3 mL | C1(=CC=CC=C1)CC=O | C8H8O
reactant | Sodium cyanoborohydride | 19 mmol, 1.2 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane methanol | 50 mL | ClCCl.CO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (6-phenethylaminohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCCCNCCC1=CC=CC=C1)=O | C19H32N2O2
